US06855713B2
e) 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid
5.0 g of 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-methyl ester (15.7 mmol) are dissolved in 50 ml of methanol, treated with 20 ml of an aqueous sodium hydroxide solution(1 N) and boiled under reflux for 0.5 hours. It is then treated with 20 ml of an aqueous solution of hydrochloric acid (1 N) and diluted with water. The precipitated crystals are filtered off, and washed with water, acetone and ether. The raw product obtained is re-crystallized from dimethyl formamide. Yield: 4.5 g (94%); MPt.: >220° C.

reactant | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-methyl ester | 15.7 mmol, 5.0 g | COC(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1 | C19H17N3O2
reactant | sodium hydroxide | 1 N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)C(=O)O | C18H15N3O2
